US07048926B2
Preparation of 1-methyl-2-(methylaminomethyl)-1H-indole
NaH (60% dispersion in mineral oil, 8.02 g, 200.49 mmole) was washed with hexanes, then was suspended in dry DMF (530 mL). Solid ethyl indole-2-carboxylate (25.29 g, 133.66 mmole) was added portionwise over 5–10 min, allowing gas evolution to subside between additions. When the addition was complete, the yellow mixture was stirred for 15 min, then methyl iodide (42 mL, 668.3 mmole) was added all at once. The reaction was exothermic, and the internal temperature rose to 40–45° C. After 1 hr, the reaction was quenched with 10% NH4Cl (100 mL) and concentrated on the rotavap (high vacuum). The residue was partitioned between Et2O(500 mL) and H2O (100 mL), and the layers were separated. The Et2O layer was washed with H2O (100 mL), dried (MgSO4), and concentrated to leave the title compound (27.10 g, quantitative) as a light yellow solid. This was used without further purification: TLC (10% EtOAc/hexanes) Rf=0.39.

reactant | NaH | 200.49 mmole, 8.02 g | [H-].[Na+]
reactant | ethyl indole-2-carboxylate | 133.66 mmole, 25.29 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | methyl iodide | 668.3 mmole, 42 mL | CI | CH3I
reactant | DMF | 530 mL | CN(C)C=O | C3H7NO
product | 1-methyl-2-(methylaminomethyl)-1H-indole | 27.10 g | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
